US05965559
A mixture of 4-(6-chloronaphth-2-ylsulphonyl)-2-methoxy-carbonyl-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine (0.362 g), 1N aqueous sodium hydroxide solution (1.3 ml) and methanol (5 ml) was stirred and heated to reflux for 30 minutes. The mixture was acidified by the addition of 2N aqueous hydrochloric acid (2 ml) and evaporated. The residue was dried to give 2-carboxy-4-(6-chloronaphth-2-ylsulphonyl)-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine (0.41 g);

reactant | 4-(6-chloronaphth-2-ylsulphonyl)-2-methoxy-carbonyl-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 0.362 g | ClC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1C(C(N(CC1)C(=O)C1CCN(CC1)C1=CC=NC=C1)OC)=C=O | C27H27ClN4O5S
reactant | sodium hydroxide | 1N, 1.3 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N, 2 ml | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
product | 2-carboxy-4-(6-chloronaphth-2-ylsulphonyl)-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 0.41 g | C(=O)(O)C1N(CCN(C1)S(=O)(=O)C1=CC2=CC=C(C=C2C=C1)Cl)C(=O)C1CCN(CC1)C1=CC=NC=C1 | C26H27ClN4O5S
